US05834506
[4-(4-Methyl-3-oxo-pentyl)-phenyl]-carbamic acid 1,1-dimethylethyl ester
A solution of 1.5 g (7.8 mmol) of 5-(4-amino-phenyl)-2-methyl-pentan-3-one (prepared in Example GGGGG), di-t-butyl dicarbonate (1.9 g, 8.7 mmol) and THF (30 mL) was heated to 50° C. overnight. The mixture was cooled to room temperature and concentrated; the residue was partitioned between EtOAc and H2O. The organic layer was washed with brine, dried (MgSO4), and concentrated. Purification via silica gel chromatography, eluting with hexane:EtOAc (4:1), gave the title compound. 1H NMR (CDCl3) δ 1.01 (d, 6 H), 1.46 (s, 9 H), 2.50 (m, 1 H), 2.68 (m, 2 H), 2.75 (m, 2 H), 6.46 (br s, 1 H), 7.05 (d, 2 H), 7.22 (m, 2 H).

reactant | 5-(4-amino-phenyl)-2-methyl-pentan-3-one | 7.8 mmol, 1.5 g | NC1=CC=C(C=C1)CCC(C(C)C)=O | C12H17NO
reactant | di-t-butyl dicarbonate | 8.7 mmol, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(4-Methyl-3-oxo-pentyl)-phenyl]-carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC1=CC=C(C=C1)CCC(C(C)C)=O)=O | C17H25NO3
